US05017724
To 200 ml of ethanol were added 5.0 g of 8-hydroxy-5-methyl-7-nitro-1,2,3,4,4a,9a-hexahydro-9-fluorenone and 1 g of 5% palladium carbon and catalytic reduction was carried out at room temperature and under normal pressure. The catalyst was removed by filtration and the filtrate was concentrated to obtain 3.5 g of 7-amino-8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone (yellow crystal).

reactant | 8-hydroxy-5-methyl-7-nitro-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 5.0 g | OC=1C(=CC(=C2C3CCCCC3C(C12)=O)C)[N+](=O)[O-] | C14H15NO4
catalyst | palladium carbon | 1 g | [C].[Pd]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 7-amino-8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 3.5 g | NC1=CC(=C2C3CCCCC3C(C2=C1O)=O)C | C14H17NO2
